US05298649
(E)-3-(5-ethyl-4-hydroxy-3-methoxy-1-naphthyl)-2-butenoic acid
470 mg of ethyl (E)-3-(5-ethyl-3-methoxy-4-methoxymethoxy-1-naphthyl)-2-butenoate was dissolved in 5 ml of ethanol and 5 ml of tetrahydrofuran, to which 350 mg of potassium hydroxide and 2 ml of water were added, followed by refluxing for 1 hour. The reaction mixture was neutralized with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and evaporated to obtain 280 mg of the titled compound as pale yellow crystals.

reactant | ethyl (E)-3-(5-ethyl-3-methoxy-4-methoxymethoxy-1-naphthyl)-2-butenoate | 470 mg | C(C)C1=C2C(=C(C=C(C2=CC=C1)/C(=C/C(=O)OCC)/C)OC)OCOC | C21H26O5
reactant | potassium hydroxide | 350 mg | [OH-].[K+]
reactant | water | 2 ml | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (E)-3-(5-ethyl-4-hydroxy-3-methoxy-1-naphthyl)-2-butenoic acid | 280 mg | C(C)C1=C2C(=C(C=C(C2=CC=C1)/C(=C/C(=O)O)/C)OC)O | C17H18O4
